US07592456B2
Step 5: 4-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole
Prepared according to the method of Example 6 Step 4 using 4-iodo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (0.46 g, 1.23 mmol) and sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (0.42 g, 1.36 mmol), to give the title compound as a colourless solid (260 mg, 39%). 1H NMR (500 MHz, CDCl3): δ 8.92 (1H, s), 8.21 (1H, dd, J=1.4, 8.6 Hz), 8.16 (1H, d, J=7.7 Hz), 8.07 (2H, d, J=9.9 Hz), 7.96 (1H, s), 7.91 (1H, d, J=8.7 Hz), 7.77 (2H, d, J=7.3 Hz), 7.64 (2H, dd, J=5.3, 8.5 Hz), 7.47 (1H, t, J=7.9 Hz), 7.17 (2H, t, J=8.6 Hz), 5.51 (2H, s), 4.12 (2H, q, J=7.1 Hz), 3.47 (2H, t, J=8.1 Hz), 2.04 (3H, s), 1.26 (3H, t, J=7.1 Hz), 0.86 (2H, t, J=8.1 Hz), −0.08 (9H, s); m/z (ES+) 534 [MH+].

reactant | 4-iodo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 1.23 mmol, 0.46 g | IC1=CC=CC=2N(C=NC21)COCC[Si](C)(C)C | C13H19IN2OSi
reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 1.36 mmol, 0.42 g | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
product | 4-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 260 mg, 39% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=CC=CC=2N(C=NC21)COCC[Si](C)(C)C | C29H29FN2O3SSi
